US09302991B2
<Step-7>:(R)—N-(1-(6-(2,2-difluoroethoxy)-5-ethylpyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide (single diastereomer)
The title compound is prepared in 76% yield (240 mg, clear colorless oil) from 1-(6-(2,2-difluoroethoxy)-5-ethylpyridin-3-yl)ethanone (220 mg, 0.94 mmol, Step-6) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(6-(2,2-difluoroethoxy)-5-ethylpyridin-3-yl)ethanone | 0.94 mmol, 220 mg | FC(COC1=C(C=C(C=N1)C(C)=O)CC)F | C11H13F2NO2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(6-(2,2-difluoroethoxy)-5-ethylpyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide | 76% yield | FC(COC1=C(C=C(C=N1)C(C)N[S@](=O)C(C)(C)C)CC)F | C15H24F2N2O2S
